US04694082
Toluene (75 ml), N-sec-butyl-2-chloracetamide (14.9 g, 0.10 mol), tetrabutylammonium hydrogen sulfate (1.7 g, 5×10-3 mol), and powdered sodium hydroxide (16.0 g, 0.40 mol) were charged into a 500 ml Morton flask equipped with a mechanical stirrer, thermometer and condenser. The reaction mixture was vigorously stirred and heated to 75° C. for one hour. The reaction mixture was cooled, filtered and solvent removed under reduced pressure. The resulting solids were recrystallized from ether to give 7.0 g (62%) of 1,4-di-sec-butyl-2,5-diketopiperazine as an off-white colored solid, mp 95.5°-97.5° C. Analytical results on the product were as follows: 1H NMR (CDCl3, TMS, 90 MHz) δ4.54 (septet, J=7 Hz, 2H), 3.78 (s, 4H), 1.45 (q, J=6 Hz, 4H), 1.10 (d, J=6 Hz, 6H), 0.83 (t, J=7 Hz, 6H) Mass spectrum, m/e =226 (parent). Anal. calcd. for C12H22N2O2 :C, 63.68; H, 9.80; N, 12.38. Found: C, 63,51; H, 9.82; N, 12.30.

reactant | N-sec-butyl-2-chloracetamide | 0.10 mol, 14.9 g | C(C)(CC)NC(CCl)=O | C6H12ClNO
reactant | sodium hydroxide | 0.40 mol, 16.0 g | [OH-].[Na+]
catalyst | tetrabutylammonium hydrogen sulfate | 5×10-3 mol, 1.7 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | Toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
product | 1,4-di-sec-butyl-2,5-diketopiperazine | 7.0 g, 62% | C(C)(CC)N1C(CN(C(C1)=O)C(C)CC)=O | C12H22N2O2
